US06403804B1
In a 1 liter four-necked flask were put 150 g (0.83 mol) of (S)-3-hydroxy-3-phenylpropionohydrazide (optical purity: >99.9%e.e.), 150 g (1.44 mol) of 35% concentrated hydrochloric acid, 220 ml of water, and 100 ml of ethyl acetate. After cooling to 5° C., a solution of 57.5 g (0.83 mol) of sodium nitrite in 80 ml of water was added thereto dropwise at 5° C. over a 1 hour period, followed by stirring at that temperature for 30 minutes. The aqueous layer of the reaction mixture was extracted with 100 ml of ethyl acetate, and the extract was combined with the ethyl acetate layer of the reaction mixture. The combined ethyl acetate extract was washed twice with a 5% sodium chloride aqueous solution. The ethyl acetate layer was added dropwise to 100 ml of hot water at 100° C. thereby to conduct thermal decomposition and to recover the ethyl acetate. After the addition, the residue was cooled to room temperature, 200 ml of ethyl acetate added, and the mixture dried over anhydrous sodium sulfate. The solvent was evaporated to give 123.5 g of a crude product, which was dissolved in a mixed solvent of 150 ml of water and 90 ml of methanol. The solution was cooled to 5° C. to yield crystals of (R)-5-phenyl-2-oxazolidinone (113.1 g, 83%). Melting point: 96.4° C. Optical purity: >99.9%e.e..

reactant | (S)-3-hydroxy-3-phenylpropionohydrazide | 0.83 mol, 150 g | O[C@@H](CC(=O)NN)C1=CC=CC=C1 | C9H12N2O2
reactant | hydrochloric acid | 1.44 mol, 150 g | Cl | ClH
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium nitrite | 0.83 mol, 57.5 g | N(=O)[O-].[Na+]
solvent | water | 80 ml | O | H2O
solvent | water | 150 ml | O | H2O
solvent | methanol | 90 ml | CO | CH4O
solvent | water | 220 ml | O | H2O
product | (R)-5-phenyl-2-oxazolidinone | 113.1 g, 83% | C1(=CC=CC=C1)[C@@H]1CNC(O1)=O | C9H9NO2
